US07968581B2
Step 1: 4-(2-Hydroxyacetyl)benzonitrile
A solution of 1 g of 4-(2-bromoacetyl)benzonitrile in acetonitrile (5 mL) and water (10 mL) is treated under microwave irradiation (125° C., 50 min) The same experiment is conducted five times. All the vials are collected, extracted with ethyl ether, dried over magnesium sulfate and concentrated under vacuum to give the desired compound.

reactant | 4-(2-bromoacetyl)benzonitrile | 1 g | BrCC(=O)C1=CC=C(C#N)C=C1 | C9H6BrNO
reactant | water | 10 mL | O | H2O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 4-(2-Hydroxyacetyl)benzonitrile | OCC(=O)C1=CC=C(C#N)C=C1 | C9H7NO2
